US05910498
1-(2,4-difluoro-5-nitrophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
To 10 ml of conc. sulfuric acid was added 1.7 g of 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid. Potassium nitrate (1.5 g) was added in portions to the solution, which was heated at 60° C. and stirred overnight. The reaction solution was allowed to cool down, poured into ice water, and stirred overnight. The precipitated solid was collected by filtration and washed with water, ethanol and diethyl ether to give 1.7 g of the title compound.

reactant | 1-(2,4-difluorophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.7 g | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H6F5NO3
reactant | Potassium nitrate | 1.5 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(2,4-difluoro-5-nitrophenyl)-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.7 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C16H5F5N2O5
